US09289531B2
Synthesis of 2-[4-(4-phenoxyphenoxy)phenyl)ethyl acrylate (P3E2EA)
To a 1 L three-neck round bottom flask equipped with mechanical stirrer were charged 2-[4-(4-phenoxyphenoxy)phenyl]ethanol (61.2 g, 0.2 mol), anhydrous triethylamine (60 mL, 0.42 mol), and anhydrous methylene chloride (300 mL). The solution was cooled in an ice/salt bath under dry air blanket for 15 mins. Acryloyl chloride (22 mL, 0.27 mol) was added into the vigorously stirred cold solution through an addition funnel over 60 min and the addition rate was adjusted to keep the temperature of the reaction mixture below 10° C. After the addition, the reaction mixture was stirred in the ice/salt bath for additional two hours followed by quenching with the addition of 2M HCl (300 mL). The mixture was extracted with ethyl acetate (300 mL×3) and the combined organic layer was washed with DI water (200 mL×3), aqueous sodium bicarbonate (200 mL×2), and dried over MgSO4. Filtration and removal of solvents under reduced pressure gave the crude product as light brown oil which was purified on silica gel using Hexanes/Ethyl acetate (9/1, v/v) as eluent to give P3E2EA as a white powder (62 g, 86%).

reactant | 2-[4-(4-phenoxyphenoxy)phenyl]ethanol | 0.2 mol, 61.2 g | O(C1=CC=CC=C1)C1=CC=C(OC2=CC=C(C=C2)CCO)C=C1 | C20H18O3
reactant | triethylamine | 0.42 mol, 60 mL | C(C)N(CC)CC | C6H15N
reactant | Acryloyl chloride | 0.27 mol, 22 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(4-phenoxyphenoxy)phenyl)ethyl acrylate | 62 g, 86% | C(C=C)(=O)OCCC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1 | C23H20O4
